US04404205
67.2 g of 7-amino-3,4,5,6-tetrahydro-2H-azepine are dissolved in 600 ml. of ethanol and the solution is cooled to -10° C. and to the reaction mixture a solution of 127.8 g. of diethyl ethoxy-methylene-malonate in 600 ml. of ethanol is added dropwise under stirring within 1 hour. The reaction mixture is stirred for a further hour at a temperature of -10° C. to -5° C. whereafter it is boiled for 1 hour. Ethanol is distilled off at reduced pressure. The residual yellow oil containing an about 10:1 mixture of ethyl 4-oxo-4,6,7,8-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate and ethyl-2-oxo-2,6,7,8,9,10-hexadhydro-pyrimido[1,2-a]azepine-3-carboxylate is dissolved in 600 ml. of benzene and shaken out twice subsequently with 60 ml of water. The benzene soltuion is dried over anhydrous sodium sulphate and evaporated at reduced pressure. 114 g. (80.5%) ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate are obtained melting at 82°-84° C. after recrystallization from ethyl acetate.

reactant | 7-amino-3,4,5,6-tetrahydro-2H-azepine | 67.2 g | NC=1CCCCCN1 | C6H12N2
reactant | diethyl ethoxy-methylene-malonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate | 80.5% | O=C1C(=CN=C2N1CCCCC2)C(=O)OCC | C12H16N2O3
